Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Phenothiazines / Prochlorperazine / Trazodone
 
Attending: ___
 
Chief Complaint:
hemetemesis 

 
Major Surgical or Invasive Procedure:
EGD with banding (___)
ETT (___) with extubation (___)
Reintubation on ___ with extubation on ___
RIJ CVL on ___
 
History of Present Illness:
___ with hx of HCV cirrhosis (genotype 3) c/b grade II 
esophageal varices, hepatopulmonary syndrome, HE, and congestive 
gastropathy, chronic pancreatitis, hypogonadism, chronic 
methadone use, symptomatic bradycardia s/p PPM, and recurrent 
nephrolithiasis who presents with hematemesis. 

Patient was in his usual state of health until the evening of 
___ when he began to have epigastric pain and nausea. He then 
progressed to have several episodes of dark bloody hematemesis. 
Per his wife, he has not been taking his nadolol since his last 
EGD in ___. Given this, he presented to the ED.
   
In the ED, initial vitals 99.7 88 127/79 20 96% RA. In triage, 
had another episode of hematemesis, for which he was triggered. 
Exam notable for no epigastric tenderness and guiac negative 
stool with no melena. Labs notable for WBC 3.4, H/H 8.6/26.9 
(baseline Hct ___, platelets 55, INR 2.0, K 5.3, Cr 1.2 
(baseline 1.0-1.2), Tbili 1.4, albumin 3.1, AST/ALT 67/20, 
lactate 2.8. CXR with no acute abnormality. Patient was started 
on PPI gtt with bolus, octreotide, and CTX. Hepatology was 
consulted in the ED who suggested that he be intubated prior to 
EGD in the MICU. During intubation, patient was noted to have 
large aspiration of bloody emesis. 

On arrival to the MICU, patient was intubated and sedated.   

Review of systems:  
(+) Per HPI. Denies melena, hematuria, dysuria. Otherwise 
10-point review of systems negative.

 
Past Medical History:
-End-stage HCV cirrhosis complicated by grade II esophageal 
varices (last EGD = ___, portal hypertensive gastropathy, 
?hepatopulmonary syndrome, ascites, and hepatic encephalopathy 
followed by hepatology (Dr. ___ awaiting transplant. 
Intolerant to sofosbuvir and ribavirin
-History of IVDU on chronic methadone
-hypogonadism
-chronic low back pain
-symptomatic bradycardia s/p PPM
-nephrolithiasis s/p lithotripsy 
-osteoporosis
 
 
Social History:
___
Family History:
He is adopted; family history unknown.
 
Physical Exam:
ADMISSION EXAM:
===================
Vitals: 98.9 117 122/93 30 99% CMV FiO2 100%  
GENERAL: intubated, sedated.
HEENT: Sclera anicteric, MMM, oropharynx with dried blood
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no ascites/fluid wave
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no rashes, no spider angiomas, dry scaling in ___ 
bilaterally 
NEURO: sedated  

DISCHARGE EXAM:
===================
Weight: NR
Vitals: 97.8, 117/58, 62, 20, 96%RA
I/O: 300/500 last shift; ___+ 6BM's last 24 hours
GENERAL: chronically ill appearing man, NAD
HEENT: Sclera anicteric, PERRL, EOMI, pupils normal size b/l, 
MMM; notable fasciculations of tongue on protrusion
NECK: supple, JVP difficult to discern as patient tremulous on 
exam, appears at 8cm  
LUNGS: CTAB with left-sided crackles up to mid-lung; no 
increased WOB
CV: Regular rate and rhythm, loud S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-distended, firmer but non-rigid, NTTP, 
hyperactive BS
EXT: Warm, well perfused, bounding 3+ pulses; 2+ sacral edema 
present
SKIN: dry scaling in ___ bilaterally; petechial/ecchymotic 
lesions over b/l forearms
NEURO: awake, improving; still tremulous, difficult to 
appreciate asterixis, but tongue fasciculations still present, 
AAOx3
PSYCH: able to recite months of year backwards
 
Pertinent Results:
ADMISSION LABS:
====================
___ 11:00PM BLOOD WBC-3.4* RBC-2.88* Hgb-8.6* Hct-26.9* 
MCV-93 MCH-29.9 MCHC-32.0 RDW-16.5* RDWSD-55.2* Plt Ct-55*
___ 11:00PM BLOOD Neuts-68.4 Lymphs-18.6* Monos-11.2 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-2.31 AbsLymp-0.63* 
AbsMono-0.38 AbsEos-0.04 AbsBaso-0.01
___ 11:26PM BLOOD ___ PTT-31.0 ___
___ 11:00PM BLOOD Glucose-116* UreaN-21* Creat-1.2 Na-137 
K-5.3* Cl-103 HCO3-29 AnGap-10
___ 11:00PM BLOOD ALT-20 AST-67* AlkPhos-52 TotBili-1.4
___ 11:00PM BLOOD Lipase-30
___ 11:15PM BLOOD Lactate-2.8* K-4.3
___ 11:17AM URINE Color-DkAmb Appear-Hazy Sp ___
___ 11:17AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-LG
___ 11:17AM URINE RBC->182* WBC->182* Bacteri-NONE 
Yeast-NONE Epi-0

PERTINENT LABS:
====================
___ 02:45AM BLOOD WBC-5.5 RBC-2.06* Hgb-6.2* Hct-19.6* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-17.5* RDWSD-58.6* Plt Ct-32*
___ 07:46AM BLOOD ___ PTT-61.2* ___
___ 09:44AM BLOOD ___
___ 05:50PM BLOOD ___ 02:45AM BLOOD Hapto-<5*
___ 09:14PM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:14PM URINE Blood-LG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 03:50PM ASCITES WBC-21* RBC-1240* Polys-5* Lymphs-47* 
___ Macroph-48*
___ 03:34PM ASCITES WBC-23* RBC-197* Polys-4* Lymphs-24* 
___ Macroph-70* Other-2*
___ 03:34PM ASCITES TotPro-0.4

IMAGING:
====================
CXR (___): Increased bilateral patchy opacities may be 
consistent with worsening edema or aspiration. 

ABD U/S (___):
1. Patent hepatic vasculature.  A small amount of retracted clot 
is seen at the junction of the left portal vein in the main 
portal vein, however the vessels are patent with appropriate 
direction of flow. 
2. Coarsened nodular liver echotexture, consistent with 
cirrhosis.  No focal liver lesions identified. 
3. Cholelithiasis and gallbladder sludge without evidence of 
cholecystitis. 
4. Massive splenomegaly. 
5. Moderate ascites.

CXR (___): ET tube is in standard position.  Diffuse 
bilateral opacities worse in the medial lower lobes have 
increased from prior consistent with worsening 
aspiration/pneumonia.  There is increase in loss of volume of 
the left lower lobe.  Left pleural effusion is small.  There is 
no pneumothorax. Cardiomediastinal contours are unchanged.  
Pacer leads are in standard position 

CXR (___): ET tube tip is 5 cm above the carinal.  Pacemaker 
leads terminate in the expected location of right atrium and 
right ventricle.  Bibasal consolidations and bilateral pleural 
effusions are unchanged.  Left lower lung is most likely 
entirely atelectatic.  The opacities within the lungs most 
likely represent a combination of pulmonary edema and infectious 
multinodular process. 

CXR (___): In comparison with the study of ___, there 
is little change in the diffuse bilateral pulmonary 
opacifications an the appearance of the monitoring and support 
devices.  No evidence of appreciable enlargement of the cardiac 
silhouette.  Again, this appearance could well represent some 
combination of substantial pulmonary vascular congestion and 
superimposed multifocal pneumonia. 

S&S Video Swallow (___): Silent aspiration of thin liquids 
and single episode of aspiration of nectar thick liquids. Please 
refer to the speech and swallow division note in OMR for full 
details, assessment, and recommendations.

CT Abdomen/Pelvis with Contrast (___): Shrunken and nodular 
liver with splenomegaly and numerous portosystemic collaterals 
predominantly perisplenic, periesophageal, and perigastric in 
location consistent with portal hypertension.  Moderate volume 
ascites has marginally progressed relative to prior examination 
dated ___. Interval decreased bilateral 
nonhemorrhagic and layering pleural effusions with new ground 
glass opacities involving the right lower and middle lobes 
worrisome for infectious process or aspiration for which 
clinical correlation is advised. Atrophic left kidney with a 
ureteral stent which appears appropriately positioned.  Mild 
right renal pelviectasis. Foci of air within a decompressed 
bladder lumen is presumably iatrogenic for which clinical 
correlation is warranted.

CT Head Non-contrast (___): Probable sequelae of chronic 
small vessel ischemic disease. No acute intracranial process.

MICROBIOLOGY:
==================
URINE CULTURE (___): YEAST. 10,000-100,000 ORGANISMS/ML.
BLOOD CUTLURE X2 (___): NEGATIVE
PERITONEAL CULTURE (___): NEGATIVE
SPUTUM CULTURE (___): NEGATIVE
URINE CULTURE (___): NEGATIVE
BLOOD CULTURE X2 (___): NGTD
PERITONEAL CULTURE (___): NGTD

DISCHARGE LABS:
=================
___ 07:15AM BLOOD WBC-3.3* RBC-2.58* Hgb-7.9* Hct-25.7* 
MCV-100* MCH-30.6 MCHC-30.7* RDW-22.1* RDWSD-78.0* Plt Ct-64*
___ 07:15AM BLOOD ___ PTT-38.9* ___
___ 07:15AM BLOOD Glucose-115* UreaN-17 Creat-1.0 Na-136 
K-4.5 Cl-100 HCO3-31 AnGap-10
___ 07:15AM BLOOD Calcium-8.7 Phos-3.2 Mg-1.4*
 
Brief Hospital Course:
Mr. ___ is a ___ with hx of HCV cirrhosis (genotype III) c/b 
Stage II esophageal varices, hepatic encephalopathy, ascites, 
hepatopulmonary syndrome, admitted for acute UGIB ___ esophageal 
varices I/s/o non-adherence to home nadolol and lactulose.

ACTIVE PROBLEMS:
=================
# Upper GI Bleed ___ Esophageal Varices: The patient presented 
with hematemesis and was admitted to the ICU for intubation 
(airway protection) and EGD. During EGD, the patient was found 
to have active bleeding from esophageal varices, visualized and 
treated during with banding x4. He was given octreotide gtt, PPI 
gtt, and prophylactic dose Ceftriaxone, followed by cefepime (as 
below). He also received hemodynamic support with IVF and blood 
products - 4u pRBC, 1u FFP, and 3u plts during his MICU course. 
His H&H was stable thereafter during this admission. Etiology of 
his decompensation was felt most likely ___ non-adherence to 
home nadalol therapy, which was restarted shortly after transfer 
to the floor from the ICU. He was also continued on PPI and home 
sucralfate through discharge.

# Hepatic encephalopathy: The patient is slow to respond at 
baseline, but developed hepatic encephalopathy with +asterixis, 
most notably in his tongue, ___ missed lactulose and GIB. He was 
aggressively treated with lactulose and rifaximin with good 
effect and rapid clearing of his mental status. The patient was 
also briefly on a course of flagyl 250mg PO TID for added 
antimicrobial tx of his HE. He did undergo CT abd/pevl with 
contrast showing microvascular shunting with possibly 
substantial systemic-porto shunting. As patient was improving 
clinically, no further interventions such as attempts at 
reversing these shunts were taken. On discharge, the patient was 
alert and oriented x3 and in his normal state of mentation per 
his wife.

# Hypoxia/respiratory failure: The patient was initially 
intubated for airway protection on ___ and extubation was 
attempted on ___. Shortly following extubation, however, the 
patient developed hypoxic respiratory failure, likely 
multifactorial ___ aspiration/pna I/s/o active GIB and fluid 
overload with diuretics being held. He was re-intubated, 
diuresed, and re-extubated on ___. He was treated for his 
aspiration PNA as below, diuresed further with IV Lasix, and 
transitioned to his home regimen of spironolactone 200mg PO 
daily and Lasix 40mg PO daily. He was quickly weaned to RA with 
duonebs given PRN. On discharge, he was breathing comfortably, 
euvolemic, and saturating well on RA.

# Aspiration pneumonia: The patient was febrile while in the 
MICU, likely ___ aspiration pneumonia given diffuse bilateral 
pulmonary opacifications on CXR and high risk for aspiration 
prior to intubation I/s/o altered mental status and hematemesis. 
He was initiated on treatment with Vancomycin and Cefepime, 
de-escalated to cefepime (first dose ___ for planned 8 day 
course. Unfortunately, patient had no positive culture data 
(urine, sputum, blood, and peritoneal) to guide therapy. While 
in the MICU, the patient also covered for 5 day course with 
Azithromycin for atypical organisms (___). He completed 
his last dose of antibiotics on ___ and was without fevers 
or hypoxia throughout the rest of the admission. He was managed 
on aspiration precautions, which should be continued at rehab.

# HCV Cirrhosis: The patient has hx of cirrhosis ___ hepatitis C 
c/b known varices, gastropathy, encephalopathy, HPS, and 
ascites. He was Childs class B with MELD 17 on presentation and 
on the transplant list. His decompensation was likely ___ GIB in 
the setting of not taking his prescribed nadolol at home. While 
in the ICU, he was managed for his UGIB and HE as above. He was 
provided nutrition via dobhoff as he was not taking adequate PO 
and worked daily with ___ during this hospital stay. He was 
discharged with MELD of 14 and instructions to follow up with 
Trnasplant hepatology shortly following discharge.

CHRONIC/STABLE/RESOLVED PROBLEMS:
===================================
# Acute Kidney Injury: The patient's creatinine peaked to 1.4, 
felt to be pre-renal in setting of hypovolemia from acute blood 
loss. His Cr improved to baseline of 1.0 quickly with fluid and 
blood product resuscitation.

# Hypernatremia: The patient developed hypernatremia to 150's 
during this floor course, most likely ___ decreased PO and free 
water intake. This was treated with free water flushes with 
tubefeeds and quickly resolved.

# Chronic pain: Patient has a history of difficult to treat 
chronic pain I/s/o prior opiod abuse and use of methadone. 
Management of methadone detailed as below. As below, the patient 
was managed on half his home dose of methadone in addition to 
lidocaine patches, Tylenol, Simethicone, and dilaudid PRN 
breakthrough pain.

# Hx of IVDU: The patient has a history of IVDU and was admitted 
on outpatient methadone therapy for management of opiod 
addiction. While in the hospital, his methadone was stopped 
I/s/o sedation for intubation and management of his other active 
problems. Prior to transfer to floor, he was started back on 
methadone at half of his home dose (35mg PO daily vs. home dose 
of 70 mg PO daily). As he was doing well clinically on this 
regimen, his methadone dose was not uptitrated. He was sent to 
rehab on Methadone 35mg PO daily and should follow up with his 
outpatient ___ clinic following discharge.

# Chest pain/EKG changes: Patient, while encephalopathic, had 
difficult to interpret chest pain, concerning for ischemia given 
report of "dull" nature and substernal location. He also c/o SOB 
and was diaphoretic on exam. He had an EKG showing possible 
inverting Twaves in V2-V3, but more likely u-waves. Trops and 
CKMB were both negative. This resolved without any further 
intervention and was most likely ___ MSK etiology.

# Hypogonadism: Patient with history of hypogonadism, likely ___ 
cirrhosis. He was on a testosterone patch at home, which was 
held for risk of thrombosis as the patient was noted to have a 
small clot in his portal vasculature. This medication was held 
at discharge and he should follow up with outpatient hepatology 
about possibly restarting this medication.

# Anxiety: The patient has longstanding anxiety, on home 
clonazepam 1mg PO BID. This was initially held while in ICU as 
the patient was sedated and it was restarted and downtitrated 
given patient's AMS ___ hepatic encephalopathy. He was 
discharged on lower dose of clonazepam (0.5mg PO BID).

# Pancytopenia: The patient had anemia due to acute blood loss, 
but schistos on smear, possibly due to sub-clinical hemolysis. 
His thrombocytopenia is likely related to cirrhosis, perhaps 
with an element of hemolysis as well. The patient's leukopenia, 
has been present in the past intermittently, and was stable 
throughout this admission. He should follow up with his 
outpatient doctors regarding ___ of this pancytopenia.

TRANSITIONAL ISSUES:
-MELD on discharge: 14
-Patient should follow up with Hepatology and his doctor at 
rehab
-Patient should be continued on rifaximin (new medication 
started this admission) and lactulose TID (titrated to ___ 
BM's/day) for hepatic encephalopathy
-Patient required blood products this admission: 4u pRBC, 2u 
plasma, 3u platelets
-Patient should continue taking his home nadolol for portal 
hypertension to reduce risk of recurrent variceal bleeding
-Patient's methadone dosage was held on admission as he received 
significant sedation for intubation. It was restarted at half 
dose and as he was clinically well appearing on this dosage and 
with slowly improving mental status. He was discharged on half 
his home dose of methadone (35mg PO daily vs. 70mg PO daily).
-Given the patient's hepatic encephalopathy during this 
admission, his clonazepam dosage was decreased. He was 
discharged on half his admission dosage of clonazepam (0.5mg PO 
BID from 1mg PO BID)
-Patient's home testosterone patch was held on discharge given 
risk of clotting and known thrombus in portal vasculature; 
please follow-up with outpatient hepatology about possibly 
restarting this medication
-Patient should continue to work with physical therapy everyday 
at rehab
-Due to initial failure of speech and swallow and failure to 
take in sufficient PO nutrition, the patient was started on 
tubefeeds via dobhoff tube. He was discharged on tubefeeds with 
detailed instructions per discharge paperwork.
-Patient required frequent potassium and magnesium repletion 
while in the hospital. Please check frequent chem-10 and replete 
electrolytes as needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea  
2. Lactulose 60 mL PO Q8H:PRN titrate to ___ BMs/day 
3. Testosterone 4 mg Patch 1 PTCH TD QPM 
4. Simethicone 80 mg PO BID 
5. Nicotine Patch 14 mg TD DAILY 
6. ClonazePAM 1 mg PO BID 
7. Nadolol 20 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID:PRN constipation  
9. Polyethylene Glycol 17 g PO DAILY 
10. Furosemide 40 mg PO DAILY 
11. Spironolactone 200 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Methadone 70 mg PO DAILY 
14. Metoclopramide 5 mg PO BID 
15. Sucralfate 1 gm PO QID 
16. Omeprazole 20 mg PO BID 
17. Calcium 500 + D (calcium carbonate-vitamin D3) 600 mg 
calcium (1500 mg)-400 unit tablet  oral BID 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO BID 
2. Furosemide 40 mg PO DAILY 
3. Lactulose 30 mL PO TID 
4. Methadone 35 mg PO DAILY 
5. Metoclopramide 5 mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Nadolol 20 mg PO DAILY 
8. Nicotine Patch 14 mg TD DAILY 
9. Simethicone 80 mg PO TID 
10. Spironolactone 200 mg PO DAILY 
11. Sucralfate 1 gm PO QID 
12. Lidocaine 5% Patch 1 PTCH TD QPM 
13. Omeprazole 20 mg PO BID 
14. Rifaximin 550 mg PO BID 
15. Calcium 500 + D (calcium carbonate-vitamin D3) 600 mg 
calcium (1500 mg)-400 unit tablet  oral BID 
16. Docusate Sodium 100 mg PO BID:PRN constipation  
17. Ondansetron 4 mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS/ES:
-Acute Upper Gastrointestinal Bleed from Esophageal Varices
-Hepatic Encephalopathy

SECONDARY DIAGNOSIS/ES:
-Acute Kidney Injury due to Pre-renal Azotemia
-Aspiration Pneumonia
-Cirrhosis secondary to Hepatitis C
-Acute Hypoxic Respiratory Failure
-Chronic Pain
-Chronic Malnutrition
-History of Intravenous Drug Abuse
-Hypogonadism
-Anxiety
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

You were admitted because you were confused and vomiting up 
blood. In the hospital, you were found to have bleeding from the 
veins in your esophagus (varices) and sent to the intensive care 
unit (ICU). In the ICU, you had a breathing tube placed and you 
underwent a successful procedure to stop the bleeding from your 
esophagus (esophagoduodenoscopy with variceal banding). After 
the procedure, your bleeding stopped and your blood counts 
stabilized. While in the ICU, you were also diagnosed with a 
pneumonia caused by inhalation of some of the contents of your 
vomit. You were treated with antibiotics and quickly improved. 
Lastly, you were given lactulose during this hospital stay for 
your confusion, which was most likely due to your liver failure. 
With this medication and restarting your home nadolol, your 
mental status quickly improved and you were feeling more like 
your normal self.

Because you were improving significantly, you were transferred 
to the general medicine floor. There, you had a tube placed 
through your nose down into your small intestines to receive 
additional nutrition. You also worked closely with physical 
therapy.

Prior to discharge, you were feeling much stronger and feeling 
more like yourself. You were sent to rehab to continue working 
with physical therapy. Please note the changes to your home 
medications, especially your home methadone dose, which was 
decreased to 35mg (from 70mg) every day. Please also follow up 
with your outpatient doctors, as instructed below.

Thank you for allowing us to be a part of your care,
Your ___ Team
 
Followup Instructions:
___